US04504490
N,N'-Bismethoxycarbonyl-N"-[5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidophenyl]guanidine (formula I)
12.5 g of 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidoaniline, 13.6 g of N,N'-bismethoxycarbonyl-S-methylisothiourea and 100 mg of p-toluenesulfonic acid in 90 ml of ethyl acetate and 45 ml of methanol are stirred under reflux for 20 minutes. After cooling down, the mixture is evaporated to dryness under reduced pressure, and the residue is stirred with diisopropyl ether and filtered off with suction. Recrystallization from ethyl acetate/diisopropyl ether, melting point 131° C.

reactant | 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidoaniline | 12.5 g | FC(C=1C=C(C=CC1)S(=O)(=O)OC=1C=CC(=C(N)C1)NC(=O)N)(F)F | C14H12F3N3O4S
reactant | N,N'-bismethoxycarbonyl-S-methylisothiourea | 13.6 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 45 ml | CO | CH4O
product | N,N'-Bismethoxycarbonyl-N"-[5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidophenyl]guanidine | COC(=O)NC(=NC1=C(C=CC(=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)NC(=O)N)NC(=O)OC | C19H18F3N5O8S
